US05710153
The mixture of 4-methoxybenzylamine (27 g), trimethylorthoformate (52.4 ml), sodium azide (19.2 g) and acetic acid (176 ml) was stirred at 80° C. for 14 h. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in water and extracted with ethyl acetate. The extract was washed with a 1N aqueous solution of hydrochloric acid, water, a saturated aqueous solution of sodium hydrocarbonate and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to give 1-(4-methoxyphenylmethyl)tetrazole (17.6 g). To a solution of the thus obtained 1-(4-methoxyphenylmethyl)tetrazole (12.0 g) in tetrahydrofuran (240 ml) was added N-bromosuccinimide (16.8 ml) under an atmosphere of argon. The reaction mixture was stirred at room temperature for 3 h. The mixture was quenched by adding a saturated aqueous solution of sodium thiosulfate and concentrated. To the residue was added water and then the mixture was extracted with ethyl acetate. The extract was washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1) to give the title compound (15.6 g) having the following physical data.

reactant | 4-methoxybenzylamine | 27 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | trimethylorthoformate | 52.4 ml | COC(OC)OC | C4H10O3
reactant | sodium azide | 19.2 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 176 ml | C(C)(=O)O | C2H4O2
product | 1-(4-methoxyphenylmethyl)tetrazole | 17.6 g | COC1=CC=C(C=C1)CN1N=NN=C1 | C9H10N4O
